US04593034
N-[1-Azabicyclo[2.2.2]oct-3-yl)-2-propoxybenzamide hydrochloride [1:1]
To a solution of 3.82 g (0.0192 mole) of 3-amino quinuclidine dihydrochloride in about 25 ml of carbon dioxide-free water was added 8 g (0.025 mole) of barium hydroxide octahydrate. The mixture was warmed for 5 minutes and then dried to a powder on a rotary evaporator. While protecting from contamination with carbon dioxide in the atmosphere, the powder was extracted in sequence with hot benzene and a 1:1 mixture of benzene-methylene chloride solution. The combined extracts were dried over magnesium sulfate and the mixture filtered. To the filtrate with agitation was added dropwise a solution of 3.4 g (0.0171 mole) of 2-propoxybenzoyl chloride in 50 ml of methylene chloride. The mixture was warmed on a steam bath to evaporate about 75% of the methylene chloride. Ligroin (60-110) was added and the mixture solidified. The solid was recrystallized from anhydrous ethyl alcohol to give 3.9 g (62.0%), m.p. 210°-211° C.

reactant | 3-amino quinuclidine dihydrochloride | 0.0192 mole, 3.82 g | Cl.Cl.NC1CN2CCC1CC2
reactant | barium hydroxide octahydrate | 0.025 mole, 8 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | 2-propoxybenzoyl chloride | 0.0171 mole, 3.4 g | C(CC)OC1=C(C(=O)Cl)C=CC=C1 | C10H11ClO2
solvent | carbon dioxide | about 25 ml | C(=O)=O | CO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[1-Azabicyclo[2.2.2]oct-3-yl)-2-propoxybenzamide hydrochloride | Cl.N12CC(C(CC1)CC2)NC(C2=C(C=CC=C2)OCCC)=O | InChI=1S/C17H24N2O2.ClH/c1-2-11-21-16-6-4-3-5-14(16)17(20)18-15-12-19-9-7-13(15)8-10-19;/h3-6,13,15H,2,7-12H2,1H3,(H,18,20);1H
